US07964602B2
1,1-Dimethylethyl 4-[(3-fluorophenyl)oxy]-1-piperidinecarboxylate (D29)
To a solution of 1,1-dimethylethyl 4-hydroxy-1-piperidinecarboxylate (24 g, 112 mmol), 3-fluorophenol (5.6 g, 59 mmol) and triphenylphosphine (31.4 g, 118 mmol) in THF (100 ml) was added di-isopropylazodicarboxylate (23.3 ml, 118 mmol). The reaction was stirred at room temperature for 3 days and then the solvent removed in vacuo. The residue was diluted with DCM, hexane was added and the resultant white precipitate filtered off. The filtrate was concentrated in vacuo and purified by chromatography. Elution with DCM gave the title compound (16.4 g, 87% pure). δH (CDCl3, 250 MHz) 1.47 (9H, s), 1.76 (2H, m), 1.92 (2H, m), 3.35 (2H, ddd), 3.69 (2H, ddd), 4.44 (1H, m), 6.65 (3H, m), 7.20 (1H, m).

reactant | 1,1-dimethylethyl 4-hydroxy-1-piperidinecarboxylate | 112 mmol, 24 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 3-fluorophenol | 59 mmol, 5.6 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | triphenylphosphine | 118 mmol, 31.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1,1-Dimethylethyl 4-[(3-fluorophenyl)oxy]-1-piperidinecarboxylate | 16.4 g, 87% | FC=1C=C(C=CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C16H22FNO3
